### PR TITLE
[Merged by Bors] - feat(LinearMap): Added lemmas relating kernels of linear maps to Submodule.map

### PR DESCRIPTION
**Pull request by Raph-DG**
Added the lemma ne_map_or_ne_kernel_inter_of_lt stating that if A < B as submodules, then for any linear map f, `ker f ⊓ A ≠ ker f ⊓ B ∨ Submodule.map f A ≠ Submodule.map f B`. We also prove the corollaries ker_inter_mono_of_map_eq and map_mono_of_ker_inter_eq.

Co-authored-by: Raphael Douglas Giles (raphaeldouglasgiles@gmail.com)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Submodule/Ker.lean [hunk 1]
```diff
@@ -201,6 +201,35 @@ theorem ker_eq_bot {f : M →ₛₗ[τ₁₂] M₂} : ker f = ⊥ ↔ Injective
...
+      lt_iff_le_and_ne.mpr ⟨inf_le_inf le_rfl hab.le,
+       Or.elim (LinearMap.ne_map_or_ne_kernel_inter_of_lt f hab)
+        (fun h ↦ False.elim (h q)) (fun h ↦ h)⟩
+
+theorem map_mono_of_ker_inter_eq {M' : Type*} [AddCommGroup M'] [Module R M']
+    {A B : Submodule R M} {f :  M →ₗ[R] M'} (hab : A < B)
+    (q : LinearMap.ker f ⊓ A = LinearMap.ker f ⊓ B) : Submodule.map f A < Submodule.map f B :=
+      lt_iff_le_and_ne.mpr ⟨Set.image_mono hab.le,
+       Or.elim (LinearMap.ne_map_or_ne_kernel_inter_of_lt f hab)
+        (fun h ↦ h) (fun h ↦ False.elim (h q))⟩
```
[the remark this answers is not in the document]
Comment (Raph-DG) [reply Mathlib/Algebra/Module/Submodule/Ker.lean:231]: Thanks so much for the suggestions, these proofs are really nice and compact and the names are much cleaner :)

**Comment by j-loreaux** [comment]
@adedecker do you think we should have versions of these for other morphisms / subobjects? Or am I missing some reason why we don't actually need these kinds of results at all?

**Comment by j-loreaux** [comment]
@Raph-DG I've done it above, but for future reference, when you address an issue in a review comment in a way you feel is satisfactory, please click the "resolve conversation" button. You can leave it open if you feel your action were insufficient or went against the suggestion, or if you feel there needs to be more discussion.

**Comment by Raph-DG** [comment]
> @Raph-DG I've done it above, but for future reference, when you address an issue in a review comment in a way you feel is satisfactory, please click the "resolve conversation" button. You can leave it open if you feel your action were insufficient or went against the suggestion, or if you feel there needs to be more discussion.

Right gotcha, sorry about that and thanks for dealing with it. I had assumed that issues raised needed to be resolved by the person who raised the issue, but in retrospect I should have asked

**Comment by j-loreaux** [comment]
No problem. It's not obvious and other repos I'm sure have different conventions.

File: Mathlib/LinearAlgebra/Span/Basic.lean [hunk 2]
```diff
@@ -646,6 +646,30 @@ theorem isIdempotentElem_apply_one_iff {f : Module.End R R} :
...
+variable [Ring R] [AddCommGroup M] [AddCommGroup M₂]
+variable [Module R M] [Module R M₂] {A B : Submodule R M}
+variable {F : Type*} [FunLike F M M₂] [LinearMapClass F R M M₂] (f : F)
+
+theorem map_lt_map_or (hab : A < B) :
+    Submodule.map f A < Submodule.map f B ∨ LinearMap.ker f ⊓ A < LinearMap.ker f ⊓ B := by
+  obtain (⟨h, -⟩ | ⟨-, h⟩) := Prod.mk_lt_mk.mp <| strictMono_inf_prod_sup (z := LinearMap.ker f) hab
+  · exact .inr <| by simpa [inf_comm]
+  · simp_rw [← Submodule.comap_map_eq] at h
+    exact Or.inl <| lt_of_le_of_ne (Submodule.map_mono hab.le) fun _ ↦ h.ne <| by congr
```
Comment (Paul-Lez) [inline Mathlib/LinearAlgebra/Span/Basic.lean:660]:
```suggestion
theorem map_lt_map_of_le_of_sup_lt_sup (hab : A ≤ B) (h : A ⊔ ker f < B ⊔ ker f) :
    Submodule.map f A < Submodule.map f B := by
  simp_rw [←Submodule.comap_map_eq] at h
  apply lt_of_le_of_ne (Submodule.map_mono hab) fun h' ↦ by simp [h'] at h

variable (f) in
theorem map_lt_map_or (hab : A < B) :
    Submodule.map f A < Submodule.map f B ∨ LinearMap.ker f ⊓ A < LinearMap.ker f ⊓ B := by
  obtain (⟨h, -⟩ | ⟨-, h⟩) := Prod.mk_lt_mk.mp <| strictMono_inf_prod_sup (z := LinearMap.ker f) hab
  · simpa [inf_comm] using Or.inr h
  · apply Or.inl <| map_lt_map_of_le_of_sup_lt_sup hab.le h
```

File: Mathlib/LinearAlgebra/Span/Basic.lean [hunk 3]
```diff
@@ -646,6 +646,30 @@ theorem isIdempotentElem_apply_one_iff {f : Module.End R R} :
 
 end
 
+section AddCommGroup
+
+variable [Ring R] [AddCommGroup M] [AddCommGroup M₂]
+variable [Module R M] [Module R M₂] {A B : Submodule R M}
+variable {F : Type*} [FunLike F M M₂] [LinearMapClass F R M M₂] (f : F)
```
Comment (Paul-Lez) [inline Mathlib/LinearAlgebra/Span/Basic.lean:653]:
```suggestion
variable {F : Type*} [FunLike F M M₂] [LinearMapClass F R M M₂] {f : F}
```

File: Mathlib/LinearAlgebra/Span/Basic.lean [hunk 4]
```diff
@@ -646,6 +646,30 @@ theorem isIdempotentElem_apply_one_iff {f : Module.End R R} :
 
 end
 
+section AddCommGroup
+
```
Comment (Paul-Lez) [inline Mathlib/LinearAlgebra/Span/Basic.lean:650]: I think you may also want to put these results in the `Submodule` namespace.

File: Mathlib/LinearAlgebra/Span/Basic.lean [hunk 5]
```diff
@@ -646,6 +646,34 @@ theorem isIdempotentElem_apply_one_iff {f : Module.End R R} :
...
+  apply lt_of_le_of_ne (Submodule.map_mono hab) fun h' ↦ by simp [h'] at h
+
+variable (f) in
+theorem _root_.Submodule.map_lt_map_or (hab : A < B) :
+    Submodule.map f A < Submodule.map f B ∨ LinearMap.ker f ⊓ A < LinearMap.ker f ⊓ B := by
+  obtain (⟨h, -⟩ | ⟨-, h⟩) := Prod.mk_lt_mk.mp <| strictMono_inf_prod_sup (z := LinearMap.ker f) hab
+  · simpa [inf_comm] using Or.inr h
+  · apply Or.inl <| map_lt_map_of_le_of_sup_lt_sup hab.le h
+
+theorem _root_.Submodule.ker_inf_lt_ker_inf (hab : A < B)
```
Comment (mattrobball) [inline Mathlib/LinearAlgebra/Span/Basic.lean:667]: This one seems like it should be in the `LinearMap` namespace.

File: Mathlib/LinearAlgebra/Span/Basic.lean [hunk 6]
```diff
@@ -646,6 +646,34 @@ theorem isIdempotentElem_apply_one_iff {f : Module.End R R} :
 
 end
 
+section AddCommGroup
+
+variable [Ring R] [AddCommGroup M] [AddCommGroup M₂]
+variable [Module R M] [Module R M₂] {A B : Submodule R M}
```
Comment (mattrobball) [inline Mathlib/LinearAlgebra/Span/Basic.lean:652]: The convention here is more `p p'` for `Submodule`'s instead of `A B`.

File: Mathlib/LinearAlgebra/Span/Basic.lean [hunk 7]
```diff
@@ -646,6 +646,34 @@ theorem isIdempotentElem_apply_one_iff {f : Module.End R R} :
...
+variable {F : Type*} [FunLike F M M₂] [LinearMapClass F R M M₂] {f : F}
+
+theorem _root_.Submodule.map_lt_map_of_le_of_sup_lt_sup (hab : A ≤ B) (h : A ⊔ ker f < B ⊔ ker f) :
+    Submodule.map f A < Submodule.map f B := by
+  simp_rw [←Submodule.comap_map_eq] at h
+  apply lt_of_le_of_ne (Submodule.map_mono hab) fun h' ↦ by simp [h'] at h
+
+variable (f) in
+theorem _root_.Submodule.map_lt_map_or (hab : A < B) :
```
Comment (mattrobball) [inline Mathlib/LinearAlgebra/Span/Basic.lean:661]:
```suggestion
theorem _root_.Submodule.map_strict_mono_or_ker_sup_lt_ker_sup (hab : A < B) :
```

File: Mathlib/LinearAlgebra/Span/Basic.lean (hunk 5 above)
Comment (mattrobball) [reply Mathlib/LinearAlgebra/Span/Basic.lean:667]: This looks like it should include an `of_lt` in the name.

File: Mathlib/LinearAlgebra/Span/Basic.lean [hunk 8]
```diff
@@ -646,6 +646,34 @@ theorem isIdempotentElem_apply_one_iff {f : Module.End R R} :
...
+    Submodule.map f A < Submodule.map f B ∨ LinearMap.ker f ⊓ A < LinearMap.ker f ⊓ B := by
+  obtain (⟨h, -⟩ | ⟨-, h⟩) := Prod.mk_lt_mk.mp <| strictMono_inf_prod_sup (z := LinearMap.ker f) hab
+  · simpa [inf_comm] using Or.inr h
+  · apply Or.inl <| map_lt_map_of_le_of_sup_lt_sup hab.le h
+
+theorem _root_.Submodule.ker_inf_lt_ker_inf (hab : A < B)
+    (q : Submodule.map f A = Submodule.map f B) : LinearMap.ker f ⊓ A < LinearMap.ker f ⊓ B :=
+  map_lt_map_or f hab |>.resolve_left q.not_lt
+
+theorem _root_.Submodule.map_lt_map_of_ker_inf_eq (hab : A < B)
```
Comment (mattrobball) [inline Mathlib/LinearAlgebra/Span/Basic.lean:671]:
```suggestion
theorem _root_.Submodule.map_strict_mono_of_ker_inf_eq (hab : A < B)
```

File: Mathlib/LinearAlgebra/Span/Basic.lean (hunk 5 above)
Comment (mattrobball) [reply Mathlib/LinearAlgebra/Span/Basic.lean:667]: And `map_eq`.

**Review by mattrobball — COMMENTED** [review]
These results should be moved up to after `Submodule.comap_map_eq` and generalized to the local context there (except for one that needs a ring instance).

**Review by j-loreaux — COMMENTED** [review]
bors merge
